US07411071B2
To a solution of sodium hydride (55 mg, 60% dispersion in mineral oil, 1.38 mmol) in THF (1 ml) at 0° C. was added phenol (100 mg, 1.06 mmol). After stirred at 0° C. for 10 minutes, the reaction solution was warmed to room temperature and stirred for 10 minutes. The reaction solution was cooled to 0° C. again, and was added a solution of N-(4-(chloromethyl)thiazol-2-yl)acetamide in ethanol (1 ml). The reaction was stirred at room temperature overnight and then was heated at 70° C. for 5 hours. The reaction solution was concentrated and the residue was purified via preparative HPLC to afford N-(4-phenoxymethyl-thiazol-2-yl)-acetamide as a tan amorphous solid (50 mg, 20%). LC/MS m/z 249.15 (M-1)+; HPLC Rt: 2.875 min.

reactant | sodium hydride | 1.38 mmol, 55 mg | [H-].[Na+]
reactant | phenol | 1.06 mmol, 100 mg | C1(=CC=CC=C1)O | C6H6O
reactant | N-(4-(chloromethyl)thiazol-2-yl)acetamide | ClCC=1N=C(SC1)NC(C)=O | C6H7ClN2OS
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | N-(4-phenoxymethyl-thiazol-2-yl)-acetamide | 50 mg, 20% | O(C1=CC=CC=C1)CC=1N=C(SC1)NC(C)=O | C12H12N2O2S
